US06531491B1
A mixture of 1-fluoro-5-methyl-2,4-dinitro-benzene (1.0 g, 5 mmol) and 10% Pd/C (200 mg) in MeOH (20 ml) was hydrogenated at 23° C. for 24 h. The reaction mixture was filtered through celite and concentrated. Purification by silica gel chromatography (1:1 ethyl acetate-hexane) gave 4-fluoro-6-methyl-benzene-1,3-diamine (613 mg, 87%).

reactant | 1-fluoro-5-methyl-2,4-dinitro-benzene | 5 mmol, 1.0 g | FC1=C(C=C(C(=C1)C)[N+](=O)[O-])[N+](=O)[O-] | C7H5FN2O4
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-fluoro-6-methyl-benzene-1,3-diamine | 613 mg, 87% | FC1=C(C=C(C(=C1)C)N)N | C7H9FN2
